US04183856
Using 2-aminobenzothiazole (1.50 g), N,N-dimethylcarbamoyl chloride (1.29 g), aluminum chloride (1.60 g), and trichloroethylene (40 ml), the reaction is effected as in Example 1, except that the reflux is carried out for 40 hours. Thus, 1,1-dimethyl-3-(2-benzothiazolyl)urea (2.16 g) is obtained. Yield is 97.7%. Melting point is higher than 300° C. (after recrystallization from ethanol).

reactant | 2-aminobenzothiazole | 1.50 g | NC=1SC2=C(N1)C=CC=C2 | C7H6N2S
reactant | N,N-dimethylcarbamoyl chloride | 1.29 g | CN(C(=O)Cl)C | C3H6ClNO
reactant | aluminum chloride | 1.60 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | trichloroethylene | 40 ml | ClC=C(Cl)Cl | C2HCl3
product | 1,1-dimethyl-3-(2-benzothiazolyl)urea | 2.16 g, Yield is 97.7% | CN(C(=O)NC=1SC2=C(N1)C=CC=C2)C | C10H11N3OS
